US06114520
To a solution of 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-iodo-N4 -(n-pentyloxycarbonyl)cytidine (130 mg, 0.18 mmol) in CH2Cl2 (2 ml) and Et3N(2 ml) Cul (10.7 mg, 0.1056 mmol), Pd(PPh3)2Cl2 (2.6 mg, 0.0036 mmol), and trimethylsilyl-acetylene (58.6 μl, 0.40 mmol) were added and stirred for 2 hours at room temperature under Ar in the dark. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in EtOAc(25 ml×3), washed with 2% aq. EDTA.2Na(10 ml×2), water and brine, dried over Na2SO4 and filtered. The filtrate was evaporated under reduced pressure. The crude product was purified by flash chromatography on SiO2 (eluent: 10% EtOAc/n-hexane) to give 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-[(trimethylsilyl)ethynyl]-N4 -(n-pentyloxycarbonyl)-cytidine as a colorless amorphous solid. (30.2 mg, 26% yield)

reactant | 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-iodo-N4 -(n-pentyloxycarbonyl)cytidine | 0.18 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(NC(=O)OCCCCC)C(=C1)I | C27H50IN3O6Si2
reactant | trimethylsilyl-acetylene | 0.40 mmol, 58.6 μl | C[Si](C)(C)C#C | C5H10Si
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 2 ml | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.0036 mmol, 2.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-[(trimethylsilyl)ethynyl]-N4 -(n-pentyloxycarbonyl)-cytidine | 26% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(NC(=O)OCCCCC)C(=C1)C#C[Si](C)(C)C | C32H59N3O6Si3
